US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-(S)-benzyl-2-oxo-2-phenylethyl)amide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-phenyl-1-(S)-(2-phenyl-[1,3]dioxolan-2-yl)ethyl]amide (Preparation 96, 47 mg, 0.105 mmol) in acetone (20 mL) was added aqueous hydrochloric acid (1 mL, 1M). After stirring under reflux for 3 days the solvent was removed in vacuo. The residue was distributed between ethyl acetate (100 mL) and saturated sodium carbonate solution (50 mL). After separation the organic layer was washed with brine (50 ml), dried (MgSO4) and concentrated to a residue which was purified by flash chromatography on silica gel (eluent: hexane/ethyl acetate: 50/50) to give the title compound as colourless solid. m/z (ES+)=404.21 [M+H]+; RT=3.58 min.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-phenyl-1-(S)-(2-phenyl-[1,3]dioxolan-2-yl)ethyl]amide | 0.105 mmol, 47 mg | C1(=CC=CC=C1)C[C@@H](C1(OCCO1)C1=CC=CC=C1)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C25H22ClN3O3
reactant | hydrochloric acid | 1M, 1 mL | Cl | ClH
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-(S)-benzyl-2-oxo-2-phenylethyl)amide | C(C1=CC=CC=C1)[C@@H](C(C1=CC=CC=C1)=O)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C23H18ClN3O2
